US07514566B2
(S)-1-(2-Amino-3-(4-chlorophenyl)propyl)-3-benzoylthiourea
A solution of benzoyl isothiocyanate (2.94 mL, 21.9 mmol) in DCM (50 mL) was added dropwise via an addition funnel to the mixture of (S)-3-(4-chlorophenyl)propane-1,2-diamine dihydrochloride (5.63 g, 21.9 mmol) and TEA (7.60 mL, 54.6 mmol) in DCM (200 mL) at −10° C. under nitrogen. The addition took 30 minutes. The mixture was then gradually warmed to ambient temperature and stirred overnight. The solvent was removed in vacuo. The residue was partitioned between EtOAc and water. The combined organic portions were washed with brine. The crude product was purified by flash column chromatography (20 to 100% of EtOAc in hexanes, Biotage Si 40M). The product was obtained as an off-white foamy solid, 5.53 g, 73%. 1H NMR (300 MHz, CDCl3) δ 1.84 (broad, NH2), 2.57-2.71 (m, 1H), 2.82-2.94 (m, 1H), 3.34-3.48 (m, 1H), 3.51-3.65 (m, 1H), 3.82-3.99 (m, 1H), 7.13-7.21 (m, 2H), 7.28-7.34 (m, 2H), 7.49-7.58 (m, 2H), 7.59-7.68 (m, 1H), 7.80-7.91 (m, 2H), 9.00 (broad, NH), 11.07 (broad, NH). LCMS (API-ES): 348.1/350.1 (M++H), chloro pattern.

reactant | benzoyl isothiocyanate | 21.9 mmol, 2.94 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | (S)-3-(4-chlorophenyl)propane-1,2-diamine dihydrochloride | 21.9 mmol, 5.63 g | Cl.Cl.ClC1=CC=C(C=C1)C[C@@H](CN)N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(2-Amino-3-(4-chlorophenyl)propyl)-3-benzoylthiourea | N[C@H](CNC(=S)NC(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)Cl | C17H18ClN3OS
